US04740595
To a solution of 1-phenyl-2-aminoethanol (5.323 g, 38.80 mmole) in 50 mL dichloromethane was added tert-butyldimethylsilyl chloride (7.030 g, 46.63 mmole) followed, after 15 minutes by tetramethylguanidine (2.430 g, 21.09 mmole). The reaction mixture was stirred at room temperature for 15 minutes and quenched by addition of water (40 mL). Layers were separated. The aqueous phase was extracted with dichloromethane (40 mL). Combined organic phases were washed with brine (2×50 mL), dried over magnesium sulfate and concentrated in vacuo to give crude 2-phenyl-2-tert-butyl dimethylsiloxy-1-ethylamine.

reactant | 1-phenyl-2-aminoethanol | 38.80 mmole, 5.323 g | C1(=CC=CC=C1)C(CN)O | C8H11NO
reactant | tert-butyldimethylsilyl chloride | 46.63 mmole, 7.030 g | [Si](C)(C)(C(C)(C)C)Cl | C6H15ClSi
reactant | tetramethylguanidine | 21.09 mmole, 2.430 g | CN(C(N(C)C)=N)C | C5H13N3
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
product | 2-phenyl-2-tert-butyl dimethylsiloxy-1-ethylamine | C1(=CC=CC=C1)C(CN)O[Si](C)(C)C(C)(C)C | C14H25NOSi
